US08134032B2
18.9 kg of methanesulfonic acid and 2458 g D,L methionine were placed in methyl cyclohexane and then 3192 g (2R,3R)-[3-(3-methoxy-phenyl)-2-methyl-pentyl]-dimethylamine were added and the mixture was stirred at 82° C. for 18 hours. Subsequently, dilution was carried out with 10.3 l water at a maximum of 80° C. and 9 l methyl cyclohexane were added. At a maximum of 42° C., 17.3 l ammoniac were added until the pH was 8.8. A phase separation took place at 45° C. and 3.2 g (1R,2R)-3-(3-dimethylamino-1-ethyl-2-methyl-propyl)-phenol were added to the organic phase at 40° C. and stirred for 1 hour at 36° C. Subsequently, after cooling slowly to 5° C. and a further hour of stirring, the precipitate which formed was extracted by suction, washed with 12 l methyl cyclohexane and dried in a drying chamber. 2685 g (89.5%) (1R,2R)-3-(3-dimethylamino-1-ethyl-2-methyl-propyl)-phenol were obtained in modification B.

reactant | methanesulfonic acid | 18.9 kg | CS(=O)(=O)O | CH4O3S
reactant | methionine | 2458 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | (2R,3R)-[3-(3-methoxy-phenyl)-2-methyl-pentyl]-dimethylamine | 3192 g | COC=1C=C(C=CC1)[C@@H]([C@H](CN(C)C)C)CC | C15H25NO
reactant | water | 10.3 l | O | H2O
solvent | methyl cyclohexane | CC1CCCCC1 | C7H14
solvent | methyl cyclohexane | 9 l | CC1CCCCC1 | C7H14
product | (1R,2R)-3-(3-dimethylamino-1-ethyl-2-methyl-propyl)-phenol | 2685 g, 89.5% | CN(C[C@@H]([C@@H](CC)C=1C=C(C=CC1)O)C)C | C14H23NO
